US04115416
Analogously to the process described in Example 1, 13.2 g of p-(1-cycloheptenyl)-phenol and 28 g of 2-bromoheptanoic acid ethyl ester give α-[p-(1-cycloheptenyl)-phenoxy]-heptanoic acid ethyl ester, of boiling point 160°-164° C, as a colourless oil.

reactant | p-(1-cycloheptenyl)-phenol | 13.2 g | C1(=CCCCCC1)C1=CC=C(C=C1)O | C13H16O
reactant | 2-bromoheptanoic acid ethyl ester | 28 g | C(C)OC(C(CCCCC)Br)=O | C9H17BrO2
product | α-[p-(1-cycloheptenyl)-phenoxy]-heptanoic acid ethyl ester | C(C)OC(C(CCCCC)OC1=CC=C(C=C1)C1=CCCCCC1)=O | C22H32O3
